* NGSPICE file created from comparator.ext - technology: gf180mcuD

.subckt comparator VSS VDD VIN_C CLK VREF_C VOUT
X0 VDD VSS a_1492_5905# VDD pfet_03v3 ad=4.4p pd=20.88u as=4.4p ps=20.88u w=10u l=0.3u
X1 VOUT CLK a_1492_1971# VSS nfet_03v3 ad=1.1p pd=5.88u as=1.1p ps=5.88u w=2.5u l=0.3u
X2 a_1640_3069# VOUT VDD VDD pfet_03v3 ad=2.2p pd=10.88u as=2.2p ps=10.88u w=5u l=0.3u
X3 a_1492_5905# VREF_C a_3393_5905# VDD pfet_03v3 ad=2.2p pd=10.88u as=2.2p ps=10.88u w=5u l=0.3u
X4 a_1492_1971# a_2014_5776# a_1640_5905# VDD pfet_03v3 ad=2.2p pd=10.88u as=2.2p ps=10.88u w=5u l=0.3u
X5 a_1640_5905# VIN_C a_1492_5905# VDD pfet_03v3 ad=2.2p pd=10.88u as=2.2p ps=10.88u w=5u l=0.3u
X6 a_3393_5905# a_2014_5776# VOUT VDD pfet_03v3 ad=2.2p pd=10.88u as=2.2p ps=10.88u w=5u l=0.3u
X7 VOUT CLK a_3685_3069# VDD pfet_03v3 ad=2.2p pd=10.88u as=2.2p ps=10.88u w=5u l=0.3u
X8 a_1640_3069# CLK a_1492_1971# VDD pfet_03v3 ad=2.2p pd=10.88u as=2.2p ps=10.88u w=5u l=0.3u
X9 a_2014_5776# CLK VDD VDD pfet_03v3 ad=2.2p pd=10.88u as=2.2p ps=10.88u w=5u l=0.3u
X10 a_2014_5776# CLK VSS VSS nfet_03v3 ad=1.1p pd=5.88u as=1.1p ps=5.88u w=2.5u l=0.3u
X11 VOUT a_1492_1971# VSS VSS nfet_03v3 ad=1.1p pd=5.88u as=1.1p ps=5.88u w=2.5u l=0.3u
X12 VSS VOUT a_1492_1971# VSS nfet_03v3 ad=1.1p pd=5.88u as=1.1p ps=5.88u w=2.5u l=0.3u
X13 VDD a_1492_1971# a_3685_3069# VDD pfet_03v3 ad=2.2p pd=10.88u as=2.2p ps=10.88u w=5u l=0.3u
.ends

