* NGSPICE file created from piso_12bit.ext - technology: gf180mcuD

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__oai21_1 abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__oai21_1 A1 A2 B ZN VDD VNW VPW VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__nand2_1 abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__nand2_1 A1 A2 ZN VDD VNW VPW VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__fill_2 abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__fill_2 VDD VNW VPW VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__endcap abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__endcap VDD VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__fillcap_4 abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__fillcap_4 VDD VNW VPW VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__filltie abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__filltie VDD VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__fill_1 abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__fill_1 VDD VNW VPW VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__clkinv_2 abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__clkinv_2 I ZN VDD VNW VPW VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__fillcap_8 abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__fillcap_8 VDD VNW VPW VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__clkinv_1 abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__clkinv_1 I ZN VDD VNW VPW VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__dlyb_1 abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__dlyb_1 I Z VDD VNW VPW VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__clkbuf_16 abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__clkbuf_16 I Z VDD VNW VPW VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__dffrnq_1 abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__dffrnq_1 D RN CLK Q VDD VNW VPW VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__fillcap_16 abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__fillcap_16 VDD VNW VPW VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__fillcap_32 abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__fillcap_32 VDD VNW VPW VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__and2_1 abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__and2_1 A1 A2 Z VDD VNW VPW VSS
.ends

.subckt piso_12bit VDD VSS clk data_in[0] data_in[10] data_in[11] data_in[1] data_in[2]
+ data_in[3] data_in[4] data_in[5] data_in[6] data_in[7] data_in[8] data_in[9] load_en
+ rst_n serial_out
X_66_ _67_/A1 _66_/A2 _66_/B _77_/D VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__oai21_1
X_49_ _67_/A1 _49_/A2 _50_/B VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nand2_1
XFILLER_10_104 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
X_65_ _67_/A1 _65_/A2 _66_/B VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nand2_1
X_48_ _67_/A1 _48_/A2 _48_/B _68_/D VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__oai21_1
XPHY_EDGE_ROW_6_Right_6 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
XFILLER_9_46 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
X_64_ _67_/A1 _64_/A2 _64_/B _76_/D VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__oai21_1
X_47_ _67_/A1 _47_/A2 _48_/B VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nand2_1
XTAP_TAPCELL_ROW_8_35 VDD VSS gf180mcu_fd_sc_mcu7t5v0__filltie
XPHY_EDGE_ROW_4_Left_15 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
XFILLER_6_47 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
XTAP_TAPCELL_ROW_2_26 VDD VSS gf180mcu_fd_sc_mcu7t5v0__filltie
XFILLER_10_106 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
X_63_ _67_/A1 _63_/A2 _64_/B VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nand2_1
XTAP_TAPCELL_ROW_8_36 VDD VSS gf180mcu_fd_sc_mcu7t5v0__filltie
X_46_ _46_/A1 _67_/A1 _46_/B _79_/D VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__oai21_1
XTAP_TAPCELL_ROW_2_27 VDD VSS gf180mcu_fd_sc_mcu7t5v0__filltie
X_62_ _67_/A1 _62_/A2 _62_/B _75_/D VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__oai21_1
Xclkload0 _78_/CLK clkload0/ZN VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__clkinv_2
X_45_ _45_/A1 _67_/A1 _46_/B VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nand2_1
XFILLER_6_49 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
X_61_ _67_/A1 _61_/A2 _62_/B VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nand2_1
XFILLER_0_18 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
XFILLER_9_38 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_8
X_44_ _76_/Q _66_/A2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__clkinv_1
XPHY_EDGE_ROW_8_Left_19 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
X_60_ _67_/A1 _60_/A2 _60_/B _74_/D VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__oai21_1
X_43_ _75_/Q _64_/A2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__clkinv_1
XPHY_EDGE_ROW_1_Right_1 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
Xoutput15 _77_/Q serial_out VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__dlyb_1
X_42_ _74_/Q _62_/A2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__clkinv_1
Xclkbuf_0_clk clk clkbuf_0_clk/Z VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__clkbuf_16
XFILLER_1_20 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
X_41_ _73_/Q _60_/A2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__clkinv_1
XTAP_TAPCELL_ROW_10_40 VDD VSS gf180mcu_fd_sc_mcu7t5v0__filltie
X_40_ _72_/Q _58_/A2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__clkinv_1
XFILLER_10_52 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_8
XPHY_EDGE_ROW_5_Right_5 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
XFILLER_5_106 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
XFILLER_8_103 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
XFILLER_1_55 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
XPHY_EDGE_ROW_3_Left_14 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
XTAP_TAPCELL_ROW_0_22 VDD VSS gf180mcu_fd_sc_mcu7t5v0__filltie
XTAP_TAPCELL_ROW_6_32 VDD VSS gf180mcu_fd_sc_mcu7t5v0__filltie
XTAP_TAPCELL_ROW_0_23 VDD VSS gf180mcu_fd_sc_mcu7t5v0__filltie
XTAP_TAPCELL_ROW_6_33 VDD VSS gf180mcu_fd_sc_mcu7t5v0__filltie
XFILLER_4_34 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
XTAP_TAPCELL_ROW_0_24 VDD VSS gf180mcu_fd_sc_mcu7t5v0__filltie
Xinput1 data_in[0] _67_/A2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__dlyb_1
XPHY_EDGE_ROW_9_Right_9 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
Xinput2 data_in[10] _63_/A2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__dlyb_1
X_79_ _79_/D _79_/RN _79_/CLK _79_/Q VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__dffrnq_1
XPHY_EDGE_ROW_7_Left_18 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
Xinput3 data_in[11] _65_/A2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__dlyb_1
X_78_ _78_/D _79_/RN _78_/CLK _78_/Q VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__dffrnq_1
XPHY_EDGE_ROW_0_Right_0 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
XPHY_EDGE_ROW_10_Left_21 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
XFILLER_4_37 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
Xinput4 data_in[1] _45_/A1 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__dlyb_1
X_77_ _77_/D _79_/RN _79_/CLK _77_/Q VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__dffrnq_1
XFILLER_10_36 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_16
XTAP_TAPCELL_ROW_9_37 VDD VSS gf180mcu_fd_sc_mcu7t5v0__filltie
Xinput5 data_in[2] _47_/A2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__dlyb_1
X_76_ _76_/D _79_/RN _79_/CLK _76_/Q VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__dffrnq_1
X_59_ _67_/A1 _59_/A2 _60_/B VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nand2_1
XTAP_TAPCELL_ROW_3_28 VDD VSS gf180mcu_fd_sc_mcu7t5v0__filltie
XFILLER_1_18 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
Xinput6 data_in[3] _49_/A2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__dlyb_1
X_75_ _75_/D _79_/RN _79_/CLK _75_/Q VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__dffrnq_1
X_58_ _67_/A1 _58_/A2 _58_/B _73_/D VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__oai21_1
XTAP_TAPCELL_ROW_10_38 VDD VSS gf180mcu_fd_sc_mcu7t5v0__filltie
XPHY_EDGE_ROW_4_Right_4 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
XFILLER_1_106 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
XPHY_EDGE_ROW_2_Left_13 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
Xinput7 data_in[4] _51_/A2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__dlyb_1
X_74_ _74_/D _79_/RN _78_/CLK _74_/Q VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__dffrnq_1
XTAP_TAPCELL_ROW_10_39 VDD VSS gf180mcu_fd_sc_mcu7t5v0__filltie
Xinput10 data_in[7] _57_/A2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__dlyb_1
X_57_ _67_/A1 _57_/A2 _58_/B VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nand2_1
Xinput8 data_in[5] _53_/A2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__dlyb_1
X_73_ _73_/D _79_/RN _78_/CLK _73_/Q VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__dffrnq_1
X_56_ _67_/A1 _56_/A2 _56_/B _72_/D VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__oai21_1
Xinput11 data_in[8] _59_/A2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__dlyb_1
Xclkbuf_1_0__f_clk clkbuf_0_clk/Z _78_/CLK VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__clkbuf_16
X_39_ _71_/Q _56_/A2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__clkinv_1
XTAP_TAPCELL_ROW_4_30 VDD VSS gf180mcu_fd_sc_mcu7t5v0__filltie
Xinput9 data_in[6] _55_/A2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__dlyb_1
X_72_ _72_/D _79_/RN _78_/CLK _72_/Q VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__dffrnq_1
XPHY_EDGE_ROW_10_Right_10 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
Xinput12 data_in[9] _61_/A2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__dlyb_1
X_55_ _67_/A1 _55_/A2 _56_/B VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nand2_1
XFILLER_8_41 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
X_38_ _70_/Q _54_/A2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__clkinv_1
XPHY_EDGE_ROW_8_Right_8 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
X_71_ _71_/D _79_/RN _79_/CLK _71_/Q VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__dffrnq_1
X_54_ _67_/A1 _54_/A2 _54_/B _71_/D VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__oai21_1
Xinput13 load_en _67_/A1 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__dlyb_1
X_37_ _69_/Q _52_/A2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__clkinv_1
XPHY_EDGE_ROW_6_Left_17 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
XPHY_EDGE_ROW_9_Left_20 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
XFILLER_10_2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_32
X_70_ _70_/D _79_/RN _79_/CLK _70_/Q VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__dffrnq_1
Xinput14 rst_n _79_/RN VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__dlyb_1
X_53_ _67_/A1 _53_/A2 _54_/B VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nand2_1
X_36_ _68_/Q _50_/A2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__clkinv_1
X_52_ _67_/A1 _52_/A2 _52_/B _70_/D VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__oai21_1
XFILLER_7_106 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
X_35_ _79_/Q _48_/A2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__clkinv_1
XFILLER_8_33 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
X_51_ _67_/A1 _51_/A2 _52_/B VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nand2_1
XFILLER_8_45 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
X_34_ _78_/Q _46_/A1 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__clkinv_1
XTAP_TAPCELL_ROW_7_34 VDD VSS gf180mcu_fd_sc_mcu7t5v0__filltie
XTAP_TAPCELL_ROW_1_25 VDD VSS gf180mcu_fd_sc_mcu7t5v0__filltie
X_50_ _67_/A1 _50_/A2 _50_/B _69_/D VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__oai21_1
XFILLER_5_69 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
XPHY_EDGE_ROW_3_Right_3 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
Xclkbuf_1_1__f_clk clkbuf_0_clk/Z _79_/CLK VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__clkbuf_16
XFILLER_8_47 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
XPHY_EDGE_ROW_1_Left_12 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
XFILLER_0_104 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
XFILLER_9_2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
XFILLER_8_26 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
XFILLER_0_106 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
XPHY_EDGE_ROW_7_Right_7 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
XFILLER_2_18 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
XFILLER_8_28 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
XTAP_TAPCELL_ROW_4_29 VDD VSS gf180mcu_fd_sc_mcu7t5v0__filltie
XPHY_EDGE_ROW_5_Left_16 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
XFILLER_9_60 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
XFILLER_9_50 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
XFILLER_9_72 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
XFILLER_0_20 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
XFILLER_3_106 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
X_69_ _69_/D _79_/RN _79_/CLK _69_/Q VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__dffrnq_1
XFILLER_9_74 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
XTAP_TAPCELL_ROW_5_31 VDD VSS gf180mcu_fd_sc_mcu7t5v0__filltie
XFILLER_5_2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
X_68_ _68_/D _79_/RN _78_/CLK _68_/Q VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__dffrnq_1
XPHY_EDGE_ROW_2_Right_2 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
XPHY_EDGE_ROW_0_Left_11 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
X_67_ _67_/A1 _67_/A2 _78_/D VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__and2_1
.ends

